US06984653B2
2-[1-[4-[4-[2-[(E)-2-(4-trifluoromethylphenyl)ethenyl]oxazol-4-yl]methoxyphenyl]butyl-1H-imidazol-2-yl]-1-ethanol
Under argon atmosphere, DMF (4 ml) was added to a mixture of 65% sodium hydride (40.6 mg) and 4-[4-[2-(2-hydroxyethyl)-1H-imidazol-1-yl]butyl]phenol (260 mg) at 0° C. The mixture was stirred at room temperature for 30 min. [2-[(E)-2-(4-Trifluoromethylphenyl)ethenyl]oxazol-4-yl]methyl chloride (316 mg) was added to the mixture at 0° C., and the mixture was stirred at room temperature for 15 hr. Water was added to the mixture to give crystals. The crystals were collected by filtration, washed with water and isopropyl ether and recrystallized from acetone-hexane to give the titled compound (393 mg) as pale yellow needle crystals.

reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
reactant | sodium hydride | 40.6 mg | [H-].[Na+]
reactant | 4-[4-[2-(2-hydroxyethyl)-1H-imidazol-1-yl]butyl]phenol | 260 mg | OCCC=1N(C=CN1)CCCCC1=CC=C(C=C1)O | C15H20N2O2
reactant | [2-[(E)-2-(4-Trifluoromethylphenyl)ethenyl]oxazol-4-yl]methyl chloride | 316 mg | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)CCl)(F)F | C13H9ClF3NO
solvent | Water | O | H2O
product | 1-[4-[4-[2-[(E)-2-(4-trifluoromethylphenyl)ethenyl]oxazol-4-yl]methoxyphenyl]butyl-1H-imidazol-2-yl]-1-ethanol | 393 mg | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)C(C)O)(F)F | C28H28F3N3O3
